US04961876
A. (S)-2-Chloro-3-methylpentanoic acid
To 20 g (0.150 moles) of L-(+)-isoleucine and 2 g of urea, 60 mL concentrated HCl and 30 mL concentrated HNO3 are added at room temperature. The mixture is subsequently heated for 1 hour at 80° C. and then for 1 hour at 50° C. on a water bath (complete dissolution of the acid with heavy foaming). After cooling, the solution is extracted with ether several times, the ether extract is washed with water and dried over calcium chloride, the solvent is distilled off in a rotary evaporator and the residue is fractionated under vacuum.

reactant | L-(+)-isoleucine | 0.150 moles, 20 g | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | urea | 2 g | NC(=O)N | CH4N2O
reactant | HCl | 60 mL | Cl | ClH
solvent | HNO3 | 30 mL | [N+](=O)(O)[O-] | HNO3
product | (S)-2-Chloro-3-methylpentanoic acid | Cl[C@H](C(=O)O)C(CC)C | C6H11ClO2
